US08486967B2
c) 3-(4-Fluoropiperidin-1-yl)pyridin-2-amine
To a solution of 3-(4-fluoropiperidin-1-yl)-2-nitropyridine (2.0 g, 8.9 mmol) in methanol (25 mL) was added a generous spoon of rainey-nickel and the mixture stirred under an atmosphere of hydrogen for 5 hours. The reaction was then filtered over Hyflo and the solvent was evaporated in vacuo to afford the product used without need for further purification. The title compound was obtained as a dark brown solid (1.7 g, 100%).

reactant | 3-(4-fluoropiperidin-1-yl)-2-nitropyridine | 8.9 mmol, 2.0 g | FC1CCN(CC1)C=1C(=NC=CC1)[N+](=O)[O-] | C10H12FN3O2
solvent | methanol | 25 mL | CO | CH4O
product | 3-(4-Fluoropiperidin-1-yl)pyridin-2-amine | FC1CCN(CC1)C=1C(=NC=CC1)N | C10H14FN3
